US04326055
In a manner analogous to that described in Example 1, from [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethyl]-triphenylphosphonium bromide and 2,4-dimethyl-benzaldehyde there can be obtained 6-[(E)-α,2,4-trimethylstyryl]-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene of melting point 54°-56° C.

reactant | [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethyl]-triphenylphosphonium bromide | [Br-].CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 2,4-dimethyl-benzaldehyde | CC1=C(C=O)C=CC(=C1)C | C9H10O
product | 6-[(E)-α,2,4-trimethylstyryl]-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | C/C(=C\C1=C(C=C(C=C1)C)C)/C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C25H32
